US05026893
Under a strong nitrogen flow, into a 2 L three-neck round bottom flask equipped with rubber septum, reflux condenser, nitrogen bypass inlet, and magnetic stirring bar was introduced, via a flex-needle, a tetrahydrofuran solution of n-decylmagnesium bromide (114.7 g, 467 mmol). In an inert atmosphere enclosure, into a 50 Ml addition funnel was added n-octyl-tris-[3-(trichlorosilyl)propyl]silane (27.85 g, 41.5 mmol, prepared by the procedure described in Example 1, Step (b)). The addition funnel was attached to the flask containing the n-decylmagnesium bromide solution, and n-octyl-tris-[3-(trichlorosilyl)propyl]silane was added over a period of 40 minutes. The reaction mixture was kept at 50° C. for 15 hours, then allowed to cool to room temperature, and an additional solution of n-decylmagnesium bromide (114.6 g, 467 mmol) in tetrahydrofuran was added into the reaction flask. The reaction mixture was then heated at reflux temperature for 164 hours. After cooling in an ice-water bath, hydrochloric acid (500 Ml, 1.2N) was cautiously added. The reaction mixture separated into two layers on standing. These were separated, and the aqueous layer was extracted with diethyl ether (2×200 Ml). The organic layers were combined, washed with water (200 Ml), and dried over magnesium sulfate, and the solvent removed under reduced pressure. Purification by silica gel column chromatography yielded 54.5 g (81.0%) of n-octyl-tris-[3-(tridecylsilyl)propyl]silane. This tetrasilahydrocarbon had a kinematic viscosity of 89.7 centistokes at 40° C., a kinematic viscosity of 15.4 centistokes at 100° C., and a viscosity index of 182. Onset of volatilization under 0.44 mm Hg pressure, based on thermogravimetric analysis, was at 285° C.

reactant | n-decylmagnesium bromide | 467 mmol, 114.7 g | C(CCCCCCCCC)[Mg]Br
reactant | n-octyl-tris-[3-(trichlorosilyl)propyl]silane | C(CCCCCCC)[Si](CCC[Si](Cl)(Cl)Cl)(CCC[Si](Cl)(Cl)Cl)CCC[Si](Cl)(Cl)Cl | C17H35Cl9Si4
reactant | n-decylmagnesium bromide | 467 mmol, 114.6 g | C(CCCCCCCCC)[Mg]Br
reactant | hydrochloric acid | 1.2N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | n-octyl-tris-[3-(tridecylsilyl)propyl]silane | 54.5 g, 81.0% | C(CCCCCCC)[Si](CCC[SiH2]CCCCCCCCCCCCC)(CCC[SiH2]CCCCCCCCCCCCC)CCC[SiH2]CCCCCCCCCCCCC | C56H122Si4
